US07781478B2
1-Ethyl-2-(4-hydroxy-3-nitrophenyl)-6-methoxy-1H-indole-3-carbonitrile (369 mg, 1.1 mmol), prepared as in example 1Gd, is combined with EtOAc (20 mL) and Pd/C (150 mg, 10%). This mixture is hydrogenated at 30 p.s.i. for 1 h. This is filtered through celite. The filtrate is concentrated and triturated with ether to yield 2-(3-amino-4-hydroxyphenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (307 mg, 91%), compound 322, as a white solid.

reactant | 1-Ethyl-2-(4-hydroxy-3-nitrophenyl)-6-methoxy-1H-indole-3-carbonitrile | 1.1 mmol, 369 mg | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C18H15N3O4
catalyst | Pd/C | 150 mg | [Pd] | Pd
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 2-(3-amino-4-hydroxyphenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 307 mg, 91% | NC=1C=C(C=CC1O)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C18H17N3O2
